US09376422B2
Step 1: Synthesis of methyl 5-chloro-3-(cyclobutylamino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-chloro-2-methylbenzoate (2.0 g, 10 mmol) and cyclobutanone (1.4 g, 20 mmol) in dichloroethane (20 mL), acetic acid (3.6 g, 60 mmol) was added and reaction stirred at room temperature for 10 minutes. Then sodium triacetoxyborohydride (6.3 g, 30 mmol) was added at 0° C. and the reaction stirred for 3 h at room temperature. On completion, the solvent was removed under reduced pressure and the crude material was purified by column chromatography to afford the title compound (1.4 g, 56%).

reactant | methyl 3-amino-5-chloro-2-methylbenzoate | 10 mmol, 2.0 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H10ClNO2
reactant | cyclobutanone | 20 mmol, 1.4 g | C1(CCC1)=O | C4H6O
reactant | acetic acid | 60 mmol, 3.6 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 30 mmol, 6.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | methyl 5-chloro-3-(cyclobutylamino)-2-methylbenzoate | 1.4 g, 56% | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCC1 | C13H16ClNO2
